US04176191
5,6-Dimethoxy-3(3,4-dimethoxybenzyl)amino methylene oxindole (XV)
5.00 g. of 5,6-Dimethoxy-3-hydroxymethylene oxindole, 6.00 g. of 3,4-dimethoxy benzylamine and 2.20 g. of acetic acid in 40 ml. benzene were reacted as described in Example 5 to give 5.44 g. of product, m.p. 198°-200° C.

reactant | 5,6-Dimethoxy-3-hydroxymethylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CO | C11H11NO4
reactant | 3,4-dimethoxy benzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5,6-Dimethoxy-3(3,4-dimethoxybenzyl)amino methylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CNCC1=CC(=C(C=C1)OC)OC | C20H22N2O5
